US08471005B2
N-{2-[2-(3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide
Following a procedure analogous to 251c, 3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine (0.095 g, 0.34 mmol) and N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (63 mg, 0.17 mol) were converted to the title compound (25.89 mgs) as a TFA salt. H-NMR (CDCl3) δ 9.59 (broad s, 1H-TFA), 8.96 (s, 1H), 7.90 (d, J=8.5 Hz, 1H), 7.81 (s, 1H), 7.68-7.49 (m, 4H), 6.98-6.95 (m, 3H), 4.06-4.00 (m, 2H), 3.85 (s, 3H), 3.78-3.69 (m, 2H), 3.44-3.14 (complex series of m, 7H), 3.90-3.04 (m, 5H), 2.86 (s, 3H), 2.68-2.58 (m, 1H), 2.39-2.19 (m, 3H) 2.09-1.87 (m, 2H); LC/MS (ESI+): 577.2 (M+H).

reactant | 3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine | 0.34 mmol, 0.095 g | COC1=CC2=C(CCCC(C2)N2CCOCC2)C=C1N | C16H24N2O2
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.17 mol, 63 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-{2-[2-(3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 25.89 mgs | COC1=CC2=C(CCCC(C2)N2CCOCC2)C=C1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C30H36N6O4S
